datasets/10k_Mayr_OG.csv
SMILES Labelled
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>Cl[C:20]1([H:10])[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl.[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2.C[S+](C)[CH-:10]C1=CC=C([N+](=O)[O-])C=C1>>C[S+](C)[CH:10](C1=CC=C([N+](=O)[O-])C=C1)[CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:31]3([CH2:20][CH:10]([C:11](C)=[O:12])[P+:61](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC1(C)C[C:11]([O-:12])=[C:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1>>CC1(C)C[C:11](=[O:12])[C:10]([CH:20]([CH:21]=[CH:22][N:23]2CCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[O:62][CH:11]([H:10])[O:12]C1.CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>C1CC[O:62][CH:11]=[O+:12]C1.CC(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CCCC[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([H:10])[N-:21]1 10,11=10,20;20,21=21"
"COC1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C)=[O:64])C=C1.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>COC1=CC=C([C:11]([CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]2)=[NH+:12][C:63](C)=[O:64])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>C[N:21](C1=CC=CC=C1)[CH2:20][CH:10]([N+:61]#[N:62])[Si:71](C)(C)C 10=20;20,21=21"
[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[Cl-:10]>>[Cl:10][CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20
"C1C[O:72][C:11]([O-:12])=[N:10]1.C[N+:21](C1=CC=CC=C1)=[CH2:20]>>C[N:21](C1=CC=CC=C1)[CH2:20][N:10]1CC[O:72][C:11]1=[O:12] 10,11=10,20;12=11,12;20,21=21"
FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@@]1([C@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([C:20]([C:31]3=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20
"CC[Si:11](C)(CC)[H:10].C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[Si+:11](C)CC.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCC[C@H]2CN2CCCC2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10]1CCCCCCCCCC[C:62]1=[O:61])=[O:72].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC[O:82][C:71]([C:10]1([CH:20]2[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)CCCCCCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1>>C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N+:12]2=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]([C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
